US04255581
To 80 ml of xylene, under reflux, m-trifluoromethylaniline (32.2 g) is added. Then, 29 g of phthalidyl 2-chloro-3-pyridinecarboxylate prepared in accordance with Example 1, Supra (divided in two fractions) is poured into the mixture with an interval of 15 minutes between each addition. The reaction mixture so obtained is maintained under reflux for 5 hours, and then cooled by pouring the mixture into an ice/water bath. To allow the complete crystallization of the desired product, the poured reaction mixture is maintained for 2 hours at a temperature of 0°-5° C. The precipitate is collected by filtration and dried under vacuum, at a temperature of 40° C. A yield of 34.1 g (82.3% of theory) of phthalidyl 2-(3-trifluoromethylanilino)-3-pyridinecarboxylate is obtained (m.p. 159°-162° C.). Recrystallizing the compound with 6 volumes of ethyl acetate, 28.4 g (68.5% yield) is obtained (m.p. 164°-5° C.).

reactant | m-trifluoromethylaniline | 32.2 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | phthalidyl 2-chloro-3-pyridinecarboxylate | 29 g | ClC1=NC=CC=C1C(=O)OC1OC(=O)C2=CC=CC=C12 | C14H8ClNO4
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
product | phthalidyl 2-(3-trifluoromethylanilino)-3-pyridinecarboxylate | yield of 34.1 g, 82.3% | FC(C=1C=C(NC2=NC=CC=C2C(=O)OC2OC(=O)C3=CC=CC=C23)C=CC1)(F)F | C21H13F3N2O4
